US07960563B2
7-Fluoro-1-(3-fluoro-4-hydroxyphenyl)-1H-indazol-4-ol (E13)
7-Fluoro-1-{3-fluoro-4-[(phenylmethyl)oxy]phenyl}-4-(methyloxy)-1H-indazole (D27) (280 mg, 0.764 mmol) was dissolved in HBr (48% aq., 15 mL) and refluxed at 120° C. under argon. After 2 hours the mixture was partitioned between DCM (50 mL)/water (50 mL), the pH adjusted to 7 by addition of a 2M solution of NaOH and the layers separated. The aqueous phase was extracted with DCM (3×50 mL) and the combined organics were washed with brine (50 mL), separated and dried over MgSO4, filtered and concentrated in vacuo. The crude material (198 mg) was purified by flash chromatography (Biotage SP4) with a gradient of 0-100% Et2O in hexane. The isolated material (75 mg) was further purified by MDAP to afford 46 mg of the title compound (E13).

reactant | 7-Fluoro-1-{3-fluoro-4-[(phenylmethyl)oxy]phenyl}-4-(methyloxy)-1H-indazole | 0.764 mmol, 280 mg | FC=1C=CC(=C2C=NN(C12)C1=CC(=C(C=C1)OCC1=CC=CC=C1)F)OC | C21H16F2N2O2
solvent | HBr | 15 mL | Br | BrH
product | 7-Fluoro-1-(3-fluoro-4-hydroxyphenyl)-1H-indazol-4-ol | 46 mg | FC1=CC=C(C=2C=NN(C12)C1=CC(=C(C=C1)O)F)O | C13H8F2N2O2
